US04975461
A. 4-Benzyloxy-N-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-naphthalenyl)aniline
A solution of 500 mg (2.42 mmol, Aldrich) of 6,7-dimethoxy-2-tetralone and 570 mg (2.42 mmol, Aldrich) of 4-benzyloxyaniline hydrochloride in 20 ml of MeOH was stirred over 3A molecular sieves at 25° C., then 76 mg (1.21 mmol, Aldrich) of NaBH3CN were added. This mixture was stirred for 3.5 hours, filtered and then saturated NaHCO3 was added to the filtrate. This solution was extracted with EtOAc twice, the organic layers were combined, dried (MgSO4) and concentrated in vacuo. Purification via flash chromatography (silica gel, 8, 1:5 then 1:3 EtOAc/petroleum ether) afforded mg (90%) of title compound as a pale pink solid:m.p. 85°-88° C.

reactant | 6,7-dimethoxy-2-tetralone | 2.42 mmol, 500 mg | COC=1C=C2CCC(CC2=CC1OC)=O | C12H14O3
reactant | 4-benzyloxyaniline hydrochloride | 2.42 mmol, 570 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | NaBH3CN | 1.21 mmol, 76 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | 4-Benzyloxy-N-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-naphthalenyl)aniline | 90% | C(C1=CC=CC=C1)OC1=CC=C(NC2CC3=CC(=C(C=C3CC2)OC)OC)C=C1 | C25H27NO3
